US06271411B1
Preparation of 2-(3,5-bis-(trifluoromethyl)-phenyl)-indene
20 ml of triethylamine, 2.2 g (20 mmole) of indene, 6.8 g (20 mmole) of 1-iodo-3,5-bis(trifluoromethyl)-benzene and 0.134 g (0.6 mmole) and 0.134 g (0.6 mmole) of Pd(OAc)2 were stirred under relux for 12 h. After it all triethylamine was removed under reduced pressure. The residue was treated with the mixture 50 ml of water and 50 ml of diethyl ether.

reactant | indene | 20 mmole, 2.2 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | 1-iodo-3,5-bis(trifluoromethyl)-benzene | 20 mmole, 6.8 g | IC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C8H3F6I
catalyst | Pd(OAc)2 | 0.6 mmole, 0.134 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 2-(3,5-bis-(trifluoromethyl)-phenyl)-indene | FC(C=1C=C(C=C(C1)C(F)(F)F)C=1CC2=CC=CC=C2C1)(F)F | C17H10F6
